US04061761
4-(4-Chloro-3-sulfamoylphenyl)-3-cyclohexyl-2-(2-pyridylmethylimino)-1,3-thiazolidine-4-ol-hydrobromide
4.7 g of 2-bromo-4'-chloro-3'-sulfamoylacetophenone and 3.75 g of 1-cyclohexyl-3-(2-pyridylmethyl)-thiourea were reacted according to the prescription given in Example 23 and the crystals were filtered off. Colorless solid body, melting point: 249° C (decomposition).

reactant | 2-bromo-4'-chloro-3'-sulfamoylacetophenone | 4.7 g | BrCC(=O)C1=CC(=C(C=C1)Cl)S(N)(=O)=O | C8H7BrClNO3S
reactant | 1-cyclohexyl-3-(2-pyridylmethyl)-thiourea | 3.75 g | C1(CCCCC1)NC(=S)NCC1=NC=CC=C1 | C13H19N3S
product | 4-(4-Chloro-3-sulfamoylphenyl)-3-cyclohexyl-2-(2-pyridylmethylimino)-1,3-thiazolidine-4-ol-hydrobromide | Br.ClC1=C(C=C(C=C1)C1(N(C(SC1)=NCC1=NC=CC=C1)C1CCCCC1)O)S(N)(=O)=O | InChI=1S/C21H25ClN4O3S2.BrH/c22-18-10-9-15(12-19(18)31(23,28)29)21(27)14-30-20(25-13-16-6-4-5-11-24-16)26(21)17-7-2-1-3-8-17;/h4-6,9-12,17,27H,1-3,7-8,13-14H2,(H2,23,28,29);1H
